US07214673B2
11-(4-Methyl-piperazin-1-yl)-5H-dibenzo[b,e][1,4]diazepine
Combine 5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride (600.0 mg, 2.44 mmol), N-methylpiperazine (1.47 g, 14.65 mmol), N,N-diisopropylethylamine (315.6 mg, 2.44 mmol), DMSO (1.0 ml), and toluene (4.0 ml). Stir and beat the mixture at 110° C. After 21 hours, cool the mixture to ambient temperature and stir it overnight. Dilute the mixture with ethyl acetate and wash the organic layer with 0.1N NaOH and brine. Dry (sodium sulfate) and concentrate the organic layer to residue. Purify the residue on silica gel using dichloromethane/methanol (90:10) to give 319.7 mg (45%) of a tan foam: mp 173° C. –179° C., dec; mass spectrum (ion spray): m/z=293.1 (M+1).

reactant | 5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride | 2.44 mmol, 600.0 mg | Cl.C1=CC=CC=2NC3=C(N=C(C21)N)C=CC=C3
reactant | N-methylpiperazine | 14.65 mmol, 1.47 g | CN1CCNCC1 | C5H12N2
reactant | N,N-diisopropylethylamine | 2.44 mmol, 315.6 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMSO | 1.0 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 4.0 ml | C1(=CC=CC=C1)C | C7H8
product | 11-(4-Methyl-piperazin-1-yl)-5H-dibenzo[b,e][1,4]diazepine | 319.7 mg, 45% | CN1CCN(CC1)C=1C2=C(NC3=C(N1)C=CC=C3)C=CC=C2 | C18H20N4
